US07186731B2
Methyl (1S,3S,4S,6R,7R)-7-fluoro-6-hydroxy-2-[(1R)-1-phenylethyl]-2-azabicyclo[2.2.1]heptane-3-carboxylate
To a solution of methyl (1S,3S,4S,6R,7S)-6-hydroxy-7-iodo-2-[(1R)-1-phenylethyl]-2-azabicyclo[2.2.1]heptane-3-carboxylate (100 mg) in acetonitrile (8 mL), was added tetrabutylammonium fluoride hydrate (102 mg). The mixture was stirred at 80° C. for 30 minutes. The resulting mixture was diluted with ethyl acetate, and washed successively with water and brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with hexane and ethyl acetate (1:1) to give the target compound (59.5 mg)

reactant | methyl (1S,3S,4S,6R,7S)-6-hydroxy-7-iodo-2-[(1R)-1-phenylethyl]-2-azabicyclo[2.2.1]heptane-3-carboxylate | 100 mg | O[C@@H]1C[C@H]2[C@H](N([C@@H]1[C@H]2I)[C@H](C)C2=CC=CC=C2)C(=O)OC | C16H20INO3
reactant | tetrabutylammonium fluoride hydrate | 102 mg | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl (1S,3S,4S,6R,7R)-7-fluoro-6-hydroxy-2-[(1R)-1-phenylethyl]-2-azabicyclo[2.2.1]heptane-3-carboxylate | 59.5 mg | F[C@H]1[C@H]2N([C@@H]([C@@H]1C[C@H]2O)C(=O)OC)[C@H](C)C2=CC=CC=C2 | C16H20FNO3
